US04146718
6,7-Dichloro-1,5-dihydroimidazo[2,1-b]quinazolin-2(3H)-one Monohydrochloride Monohydrate
6,7-Dichloro-1,5-dihydroimidazo[2,1-b]-quinazolin-2(3H)-one (94.0 g, 0.367 mol) was added to 2.82 liters of boiling methanol. To the suspension was added 77 ml. (0.92 mol) of concentrated hydrochloric acid. A nearly complete solution resulted. Darco G-60 was added, the mixture was boiled for ca. 3 minutes and then filtered. The filtrate was reheated to boiling to effect solution, then cooled slightly, and 1.9 liters of ether added cautiously. The mixture was stirred at ambient temperature for 2 hours and the solid was filtered off. (Crop A).

reactant | 6,7-Dichloro-1,5-dihydroimidazo[2,1-b]-quinazolin-2(3H)-one | 0.367 mol, 94.0 g | ClC1=C2CN3C(=NC2=CC=C1Cl)NC(C3)=O | C10H7Cl2N3O
reactant | hydrochloric acid | 0.92 mol | Cl | ClH
reactant | Darco | C | CH4
solvent | methanol | 2.82 liters | CO | CH4O
product | 6,7-Dichloro-1,5-dihydroimidazo[2,1-b]quinazolin-2(3H)-one Monohydrochloride Monohydrate | O.Cl.ClC1=C2CN3C(=NC2=CC=C1Cl)NC(C3)=O | InChI=1S/C10H7Cl2N3O.ClH.H2O/c11-6-1-2-7-5(9(6)12)3-15-4-8(16)14-10(15)13-7;;/h1-2H,3-4H2,(H,13,14,16);1H;1H2
